US04169947
[(2-Furanylcarbonyl)amino]oxoacetyl chloride
3.6 g. of N-(trimethylsilyl)-2-furancarboxamide are dissolved in 50 ml. of absolute methylene chloride and the solution is added dropwise at -10° to a solution of 1.8 g. of oxalyl chloride in 100 ml. of methylene chloride. The mixture is stirred for one hour at 0°. After evaporating the solvent, [(2-Furanylcarbonyl)amino]oxoacetyl chloride remains as a yellowish oil which is used for the next reaction without further purification.

reactant | N-(trimethylsilyl)-2-furancarboxamide | C[Si](NC(=O)C=1OC=CC1)(C)C | C8H13NO2Si
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(2-Furanylcarbonyl)amino]oxoacetyl chloride | O1C(=CC=C1)C(=O)NC(C(=O)Cl)=O | C7H4ClNO4
